US06462032B1
3-(7′-Bromo-1′,2′-dihydro-2′-oxospiro[cyclohexane-1,3′-[3H]indol]-5′-yl)-5-fluoro-benzonitrile
A mixture of 3-(1′,2′-dihydro-2′-oxospiro[cyclohexane-1,3′-[3H]indol]-5′-yl)-5-fluorobenzonitrile (0.40 g, 1.23 mmol) and potassium acetate (0.13 g, 1.3 mmol) in glacial acetic acid (3 mL) at room temperature was treated with a solution of bromine (1.05 eq, 0.21 g, 1.3 mmol) in a glacial acetic acid (3 mL). Aflter stirring for 1 h the mixture was poured onto ice (20 g). The layers were separated and the aqueous layer was extracted with dichloromethane (2×10 mL). The organic layers were combined, washed sequentially with 10% aqueous sodium thiosulfate (20 mL), water (2×10 mL), saturated sodium bicarbonate (10 mL) and brine (15 mL) and dried over MgSO4. The solution was filtered, concentrated in vacuo, and the residue was purified by flash column chromatography on silica gel (eluting with 30% EtOAc/hexane) to give the title compound (0.21 g, 43%) as an oil which crystallized upon addition of 10% EtOAc/hexanes, mp 217° C. 1H NMR (CDCl3; 300 MHz) δ 1.56-2.04 (m, 10H), 7.33 (dddd, 1H, J=1.25, 2.3, 3.6 and 9.0 Hz), 7.45 (m, 1H), 7.47 (m, 2H), 7.54 (m, 1H), 7.60 (m, 1H). MS ((−)-ESI) m/z 399 [M−]. Anal. Calcd for C20H16BrFN2O1: C, 60.17; H, 4.04; N, 7.02. Found: C, 60.03; H, 4.08; N, 6.83.

reactant | 3-(1′,2′-dihydro-2′-oxospiro[cyclohexane-1,3′-[3H]indol]-5′-yl)-5-fluorobenzonitrile | 1.23 mmol, 0.40 g | O=C1NC2=CC=C(C=C2C12CCCCC2)C=2C=C(C#N)C=C(C2)F | C20H17FN2O
reactant | potassium acetate | 1.3 mmol, 0.13 g | C(C)(=O)[O-].[K+]
reactant | bromine | 1.3 mmol, 0.21 g, 1.05 eq | BrBr | Br2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 3-(7′-Bromo-1′,2′-dihydro-2′-oxospiro[cyclohexane-1,3′-[3H]indol]-5′-yl)-5-fluoro-benzonitrile | 0.21 g, 43% | BrC=1C=C(C=C2C3(C(NC12)=O)CCCCC3)C=3C=C(C#N)C=C(C3)F | C20H16BrFN2O
